US07220759B2
In the same manner as in Example 10b (a) and using cis-2-hydroxymethyl-3-methylpiperidine described in J. Heterocycl. Chem., vol. 9, pp. 875–878 (1972), 3-(cis-2-hydroxymethyl-3-methylpiperidin-1-yl)propionitrile is obtained. In the same manner as in Example 1b (e) and using 3-(cis-2-hydroxymethyl-3-methylpiperidin-1-yl)propionitrile and N,N-diethyl-2,3-dimethylbenzamide, 3-[2-(cis-2-hydroxymethyl-3-methylpiperidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one is obtained.

reactant | 3-(cis-2-hydroxymethyl-3-methylpiperidin-1-yl)propionitrile | OC[C@@H]1N(CCC[C@@H]1C)CCC#N | C10H18N2O
reactant | N,N-diethyl-2,3-dimethylbenzamide | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
product | 3-[2-(cis-2-hydroxymethyl-3-methylpiperidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | OC[C@@H]1N(CCC[C@@H]1C)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C19H26N2O2
